US06251911B1
A mixture of 76.3 9 (286.1 mmol) of 5-amino-3-[2-(Boc-amino)-ethylamino]-4cyano-pyrazole, 54 ml (315.1 mmol) of N,N-dimethylformamide diethyl acetal, 850 ml of toluene and 85 ml of ethanol is stirred at 100° C. for 5 hours. A further 24.5 ml (143 mmol) of N,N-dimethylformamide diethyl acetal are then added to the reaction mixture and stirring is continued for a further 3 hours at 100° C. After cooling to about 10° C., filtration and washing the filter residue with toluene and diethyl ether, 3-[2-(Boc-amino)-ethylamino]-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole is obtained; m.p. 158-160° C.; ESI-MS: (M−H)−=320.

reactant | 5-amino-3-[2-(Boc-amino)-ethylamino]-4cyano-pyrazole | NC1=C(C(=NN1)NCCNC(=O)OC(C)(C)C)C#N | C11H18N6O2
reactant | N,N-dimethylformamide diethyl acetal | 315.1 mmol, 54 ml | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | toluene | 850 ml | C1(=CC=CC=C1)C | C7H8
reactant | N,N-dimethylformamide diethyl acetal | 143 mmol, 24.5 ml | C(C)OC(N(C)C)OCC | C7H17NO2
solvent | ethanol | 85 ml | C(C)O | C2H6O
product | 3-[2-(Boc-amino)-ethylamino]-4-cyano-5-(dimethylamino-methyleneamino)-pyrazole | C(=O)(OC(C)(C)C)NCCNC1=NNC(=C1C#N)N=CN(C)C | C14H23N7O2
